US05116862
3-Methyl-6-oxoheptanoic acid (2.45 g) was stirred in dry dimethylformamide (60 ml) at 20° C. and anhydrous sodium carbonate (1.64 g) was added. Ethyl iodide (5.4 ml) was added dropwise and the mixture was refluxed with stirring for 2 hours. The mixture was cooled, poured into water and the aqueous mixture was extracted with diethyl ether. The ethereal extracts were washed with saturated aqueous sodium thiosulphate solution, water, and dried over anhydrous magnesium sulphate. The solvent was removed in vacuo and the residue was purified by chromatography on silica, eluting with 1:4 diethyl ether:hexane. Ethyl 3-methyl-6-oxoheptanoate was obtained as an orange oil (2.0 g)

reactant | 3-Methyl-6-oxoheptanoic acid | 2.45 g | CC(CC(=O)O)CCC(C)=O | C8H14O3
reactant | sodium carbonate | 1.64 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Ethyl iodide | 5.4 ml | C(C)I | C2H5I
reactant | water | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | Ethyl 3-methyl-6-oxoheptanoate | CC(CC(=O)OCC)CCC(C)=O | C10H18O3
